US05498798
Preparation of 3-chloro-4-methylbenzenesulfonyl chloride
576 g (3 mol) of 4-methylbenzenesulfonyl chloride are melted in a chlorination apparatus. After addition of 7 g of iron(III) chloride and 2 g of iodine, elemental chlorine is passed in (5 l Cl2 /h) at from 75° to 80° C. until 100% chlorination is achieved (GC analysis).

reactant | 4-methylbenzenesulfonyl chloride | 3 mol, 576 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | iodine | 2 g | II | I2
reactant | chlorine | ClCl | Cl2
reactant | Cl2 | 5 l | ClCl | Cl2
catalyst | iron(III) chloride | 7 g | [Fe](Cl)(Cl)Cl
product | 3-chloro-4-methylbenzenesulfonyl chloride | ClC=1C=C(C=CC1C)S(=O)(=O)Cl | C7H6Cl2O2S
